US06002008
4-(4-Chloro-2-fluoro-phenylamino)-7-(3-chloro-propoxy)-6-methoxy-quinoline-3-carbonitrile
A mixture of 3.1 g (9.96 mmol) of 7-(3-Chloro-propoxy)-4-chloro-6-methoxy-quinoline-3-carbonitrile, 1.6 g (10.96 mmol) of 4-chloro-2-fluoro-aniline, and 1.2 g (10 mmol) of pyridine hydrochloride in 31 ml of 2-ethoxyethanol was stirred at reflux for 1.5 hr. The mixture was poured into saturated sodium bicarbonate solution and extracted with ethyl acetate. The organic solution was dried and solvent was removed. The residue was purified on a silica gel column eluting with chloroform-ether mixtures to give 2.88 g of the title compound as an off-white solid powder: mass spectrum (electrospray, m/e) M+H 419.7.

reactant | 7-(3-Chloro-propoxy)-4-chloro-6-methoxy-quinoline-3-carbonitrile | 9.96 mmol, 3.1 g | ClCCCOC1=C(C=C2C(=C(C=NC2=C1)C#N)Cl)OC | C14H12Cl2N2O2
reactant | 4-chloro-2-fluoro-aniline | 10.96 mmol, 1.6 g | ClC1=CC(=C(N)C=C1)F | C6H5ClFN
reactant | pyridine hydrochloride | 10 mmol, 1.2 g | Cl.N1=CC=CC=C1
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | 2-ethoxyethanol | 31 ml | C(C)OCCO | C4H10O2
product | 4-(4-Chloro-2-fluoro-phenylamino)-7-(3-chloro-propoxy)-6-methoxy-quinoline-3-carbonitrile | 2.88 g | ClC1=CC(=C(C=C1)NC1=C(C=NC2=CC(=C(C=C12)OC)OCCCCl)C#N)F | C20H16Cl2FN3O2
